US04125729
Methyl α-(p-tert-butylphenoxy)-α-[p-(p-chlorophenylthio)phenyl]acetate
In a manner similar to Example 16, 7.43 g of methyl α-bromo-α-[p-(p-chlorophenylthio)phenyl]acetate was reacted with 3.75 g of p-tert-butylphenol. Filtration of the crude reaction mixture yielded 5.4 g of white platelets, which yielded 4.8 g of white crystals, mp 106.5°-108.5° C on recrystallization from 100 ml of 80:20 hexane:chloroform.

reactant | methyl α-bromo-α-[p-(p-chlorophenylthio)phenyl]acetate | 7.43 g | BrC(C(=O)OC)C1=CC=C(C=C1)SC1=CC=C(C=C1)Cl | C15H12BrClO2S
reactant | p-tert-butylphenol | 3.75 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
product | Methyl α-(p-tert-butylphenoxy)-α-[p-(p-chlorophenylthio)phenyl]acetate | 4.8 g | C(C)(C)(C)C1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)SC2=CC=C(C=C2)Cl)C=C1 | C25H25ClO3S
